US09023852B2
b) 1-[3-(3-Chloro-phenyl)-[1,2,4]thiadiazol-5-yl]-piperazine dihydrochloride
A mixture of tert-butyl 4-(3-bromo-1,2,4-thiadiazol-5-yl)piperazine-1-carboxylate (1 g, 2.86 mmol), 3-chlorophenylboronic acid (537 mg, 3.44 mmol), Na2CO3 (364 mg, 3.44 mmol) and tetrakis(triphenylphosphine) palladium (0) (66.2 mg, 57.3 μmol) in 36 mL DME/12 mL water was heated to 100° C. over night. The mixture was extracted with EtOAc (80 mL)/water (80 mL). The organic layer was dried over Na2SO4, filtered off and concentrated in vacuo to give amber oil which was dissolved in 25 mL dioxane, 7.16 mL 4N HCl/dioxane was added and stirred over night at RO. Et2O was added and the mixture was filtered and washed with Et2O. The filter cake was dried in vacuo at 50° C. to yield 926 mg (90%) of the intermediate compound as light yellow solid. MS (m/e): 281.0 (MH+).

reactant | tert-butyl 4-(3-bromo-1,2,4-thiadiazol-5-yl)piperazine-1-carboxylate | 2.86 mmol, 1 g | BrC1=NSC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C11H17BrN4O2S
reactant | 3-chlorophenylboronic acid | 3.44 mmol, 537 mg | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 3.44 mmol, 364 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl dioxane | 4N, 7.16 mL | Cl.O1CCOCC1
solvent | DME | 36 mL | COCCOC | C4H10O2
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium (0) | 57.3 μmol, 66.2 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | Et2O | CCOCC | C4H10O
product | 1-[3-(3-Chloro-phenyl)-[1,2,4]thiadiazol-5-yl]-piperazine dihydrochloride | 926 mg, 90% | Cl.Cl.ClC=1C=C(C=CC1)C1=NSC(=N1)N1CCNCC1 | InChI=1S/C12H13ClN4S.2ClH/c13-10-3-1-2-9(8-10)11-15-12(18-16-11)17-6-4-14-5-7-17;;/h1-3,8,14H,4-7H2;2*1H
